US04882330
1-(4-Fluorophenoxy)-4-[4-(2-pyridinyl)-1-piperazinyl]-2-butanol
A mixture of 9.0 g (0.0413 mole) of 4-chloro-(4-fluorophenoxy)-2-butanol, 6.8 g (0.0414 mole) of 1-(2-pyridinyl)piperazine, 14.5 g (0.1374 mole) of anhydrous sodium carbonate and 0.24 g of potassium iodide in 200 ml of 1-butanol was heated at reflux for 20 hr. The mixture was concentrated under reduced pressure and the residue was partitioned between 200 ml of water and 200 ml of benzene. The benzene layer was washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure to give a thick yellow oil. Upon trituration with petroleum ether (30°-60° C.), the oil solidified. The collected solid was recrystallized from ligroin to yield 8.2 g (57%) of white, crystalline solid, m.p. 72°-73° C.

reactant | 4-chloro-(4-fluorophenoxy)-2-butanol | 0.0413 mole, 9.0 g | ClCCC(COC1=CC=C(C=C1)F)O | C10H12ClFO2
reactant | 1-(2-pyridinyl)piperazine | 0.0414 mole, 6.8 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodium carbonate | 0.1374 mole, 14.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.24 g | [I-].[K+]
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | 1-(4-Fluorophenoxy)-4-[4-(2-pyridinyl)-1-piperazinyl]-2-butanol | FC1=CC=C(OCC(CCN2CCN(CC2)C2=NC=CC=C2)O)C=C1 | C19H24FN3O2
